US04725283
Preparation of 2,5-dibromo-4-nitro-N-benzenesulphonylaniline
To 250 ml of acetic acid, diluted with 130 ml of water, are added: 1.5 g of sodium nitrite, 0.13 mole of 2,5-dibromo-N-benzenesulphonylaniline prepared in the previous stage and 0.78 mole (32.5 ml) of nitric acid (d=1.52). The reaction mixture is heated for 1 hour at 90° C. The reaction mixture, cooled beforehand, is poured onto 1 kg of ice and the expected product precipitates. It is filtered off, washed to neutrality and then recrystallized from acetic acid; it melts at 148° C.

reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1.5 g | N(=O)[O-].[Na+]
reactant | 2,5-dibromo-N-benzenesulphonylaniline | 0.13 mole | BrC1=C(NS(=O)(=O)C2=CC=CC=C2)C=C(C=C1)Br | C12H9Br2NO2S
reactant | nitric acid | 0.78 mole, 32.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 130 ml | O | H2O
product | 2,5-dibromo-4-nitro-N-benzenesulphonylaniline | BrC1=C(NS(=O)(=O)C2=CC=CC=C2)C=C(C(=C1)[N+](=O)[O-])Br | C12H8Br2N2O4S
